* Z:\mnt\design.r\spice\examples\1964-SD.asc
V1 IN 0 PWL(0 0 1 -10)
C1 OUT 0 1µ
Rload OUT 0 1K
XU1 0 IN IN OUT OUT LT1964-SD
.tran 1
.lib LT1964.lib
.backanno
.end
